US09228224B2
Fmoc-trans-3-hydroxy-(L)-proline
To a stirred and cooled suspension of trans-3-hydroxy-(L)-proline (2.00 g, 15.3 mmol, 1.00 eq.) in 1,4-dioxane (110 mL) and aq. NaHCO3 (5% w/v, 55 mL) was added slowly a solution of Fmoc-Cl (4.02 g, 15.56 mmol, 1.02 eq.) in dioxane (50 mL). The reaction mixture was kept at 4° C. for 4 h, allowed to warm to room temperature, and stirred for another 6 h to afford a clear, colorless solution. Most of the dioxane was evaporated in vacuo (45° C. bath temperature), and the resultant solution was extracted with diethyl ether (2×100 mL) to remove excess Fmoc-Cl. The aqueous layer was acidified to pH 2-3 with 1 M HCl to afford a cloudy solution, which was extracted with EtOAc (4×100 mL). The combined organic layers were dried (MgSO4), filtered, evaporated in vacuo and co-evaporated twice with CH2Cl2. Drying under vacuum afforded the product as an off-white, microcrystalline solid (3.10 g, expected 5.39 g, yield 58%). Spectroscopic data were in agreement with the literature (Taylor, Hardre et al. 2005).

reactant | trans-3-hydroxy-(L)-proline | 15.3 mmol, 2.00 g, 1.00 eq. | O[C@@H]1[C@H](NCC1)C(=O)O | C5H9NO3
reactant | Fmoc-Cl | 15.56 mmol, 4.02 g, 1.02 eq. | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
solvent | 1,4-dioxane | 110 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 55 mL | C(=O)(O)[O-].[Na+]
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | Fmoc-trans-3-hydroxy-(L)-proline | yield 58% | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N1[C@H](C(=O)O)[C@H](CC1)O | C20H19NO5
